US04985063
223 g (1.125 mol) of mesityleneacetyl chloride are added dropwise at 0° to 10° C. to 182 ml (1.157 mol) of ethyl pipecolinate and 162 ml (1.157 mol) of triethylamine in 1,200 ml of absolute tetrahydrofuran (THF), followed by stirring for 1 hour at room temperature. After the mixture has been stirred into 5 liters of ice water and 500 ml of 1 N HCl, the product is filtered off with suction, washed with water and dried in vacuo at 50° C. over P2O5. 342.3 g (95.2% of theory) of ethyl N-(2,4,6-trimethylphenylacetyl)-piperidine-2-carboxylate are obtained.

reactant | mesityleneacetyl chloride | 1.125 mol, 223 g | C1(=C(C(=CC(=C1)C)C)CC(=O)Cl)C | C11H13ClO
reactant | ethyl pipecolinate | 1.157 mol, 182 ml | N1C(C(=O)OCC)CCCC1 | C8H15NO2
reactant | triethylamine | 1.157 mol, 162 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 N, 500 ml | Cl | ClH
solvent | tetrahydrofuran | 1,200 ml | O1CCCC1 | C4H8O
product | ethyl N-(2,4,6-trimethylphenylacetyl)-piperidine-2-carboxylate | 342.3 g, 95.2% | CC1=C(C(=CC(=C1)C)C)CC(=O)N1C(CCCC1)C(=O)OCC | C19H27NO3
